US04826531
To a stirred solution of 2-methyl-3-phenoxypyridine (3.2 g, 0.017 mol) in THF (25 ml) at -60° C. was added n-butyllithium (7 ml of a 2.5M solution in hexane) via syringe over 15 minutes. A deep red colour formed immediately and there was a slight exotherm. After stirring for a further 20 minutes, carbon dioxide gas was passed over the reaction mixture. A mildly exothermic reaction took place and a cream precipitate formed. The reaction mixture was allowed to warm to room temperature over 2 hours, diluted with water (100 ml), and then extracted with dichloromethane (×2) and ether (×1). The aqueous phase was evaporated in vacuo at 50° C., and the resulting cream-coloured residue redissolved in methanolic hydrogen chloride [formed from acetyl chloride (10 ml) and methanol (100 ml)] and left overnight at room temperature. The solvent was removed in vacuo and the residue redissolved in dichloromethane and washed with dilute sodium hydrogen carbonate. The organic phase was dried and evaporated to give an oily residue. Chromatography (eluent dichloromethane-ether) afforded methyl (3-phenoxypyrid-2-yl)acetate (1.5 g) as a brown oil; infrared max (film) 1735, 1400, 1250 cm-1.

reactant | 2-methyl-3-phenoxypyridine | 0.017 mol, 3.2 g | CC1=NC=CC=C1OC1=CC=CC=C1 | C12H11NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | methyl (3-phenoxypyrid-2-yl)acetate | 1.5 g | O(C1=CC=CC=C1)C=1C(=NC=CC1)CC(=O)OC | C14H13NO3
